US04093809
A suspension of 23.6 grams (0.1 mole) of diethyl 1,1-dimethyl-3-oxobutylphosphonate [A. N. Pudovick, Zh. Obshch. Khim., 22, 1371 (1952)], 40 ml of ethanol, 30 ml of water, 9.8 grams (0.15 mole) of potassium cyanide and 28.8 grams (0.3 mole) of powdered ammonium carbonate was heated at 60° C for six hours. The reaction mixture was cooled and filtered to remove suspended salts. The filtrate was neutralized with hydrochloric acid, and evaporated to dryness. Residual inorganic salts were removed by dissolving the residue in methylene chloride and followed by filtration. The product was then isolated by evaporation of the solvent and drying to yield 19.5 grams (64%) of 5-methyl-5-(2-diethylphosphono-2-methylpropyl)hydantoin, m.p. 142°-146° C. Recrystallization from ethyl acetate raised the m.p. to 146°-148.5° C.

reactant | diethyl 1,1-dimethyl-3-oxobutylphosphonate | 0.1 mole, 23.6 grams | CC(CC(C)=O)(C)P(OCC)(OCC)=O | C10H21O4P
reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | potassium cyanide | 0.15 mole, 9.8 grams | [C-]#N.[K+]
reactant | ammonium carbonate | 0.3 mole, 28.8 grams | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | water | 30 ml | O | H2O
product | 5-methyl-5-(2-diethylphosphono-2-methylpropyl)hydantoin | 19.5 grams, 64% | CC1(C(NC(N1)=O)=O)CC(C)(C)P(=O)(OCC)OCC | C12H23N2O5P
